data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_209868_1,[C:1]1([H:13])([H:14])[N:3]([H:8])[N:2]([N:5]([H:9])[H:10])[C:4]([N:6]([H:11])[H:12])=[C:7]1[H:15]>>[C:1]1([H:13])([H:14])[N:3]([H:8])[N:2]([N:5]([H:9])[H:10])[C:4]([N:6]([H:11])[H:12])=[C:7]1[H:15],43.46002249999259
MR_506811_2,[C:1]([N:3]([O:6]/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](/[O:7][H:8])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:5]([O:7][H:8])([H:10])[O:6]1)[H:9])([H:11])([H:12])[H:13],69.39522499996556
MR_531093_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2](/[C:6]([C:5]([H:20])([H:21])[H:22])=[C:8](\[N:7]([H:11])[H:12])[H:13])([H:10])[O:9]1>>[C:1]([C:2](/[C:6]([C:5]([H:20])([H:21])[H:22])=[C:8](\[N:7]([H:11])[H:12])[H:13])=[O:9])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:10],57.55430000000587
MR_518333_1,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([H:9])[H:10])([O:5][O:4][O:6][H:7])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([H:9])[H:10])([O:4][O:6][H:7])[O:5][H:8],45.33687500003367
MR_559077_0,[C:1]1([C:3]([H:15])([H:16])[H:17])([N:9]([H:13])[H:14])[N:7]([H:11])[C:2]([C:5]([H:21])([H:23])[H:24])([C:6]([H:22])([H:25])[H:26])[C:8]1([C:4]([H:18])([H:19])[H:20])[O:10][H:12]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:7]([C:2]([C:5]([H:21])([H:23])[H:24])([C:6]([H:22])([H:25])[H:26])[H:12])[H:11])([C:8]([C:4]([H:18])([H:19])[H:20])=[O:10])[N:9]([H:13])[H:14],72.01127250003083
MR_446566_0,[C:1]([O:7][N:2]([C:3](=[C:6]([H:16])[H:17])[O:8][N:4]([H:9])[H:10])[N:5]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:7][C:3]([N:2]([N:5]([H:11])[H:12])[O:8][N:4]([H:9])[H:10])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15],70.55359000000152
MR_35805_0,[N:1]([C:2]([N:3]([H:8])[H:9])=[O:5])([O:4][H:6])[H:7]>>[N:1](=[C:2](\[N:3]([H:8])[H:9])[O:5][H:7])\[O:4][H:6],25.690477500020137
MR_359176_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4](=[C:6]([H:16])[H:17])[O:7][H:9])=[O:8])([N:5]([H:11])[H:12])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:5]([H:11])[H:12])=[O:8])([C:4](=[C:6]([H:16])[H:17])[O:7][H:9])[H:10],66.3637725000217
MR_81915_0,[C:1](/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:6]/[C:2]([H:11])([H:12])[H:13])([N:5]([H:7])[H:8])([H:9])[H:10]>>[C:1](=[C:4](/[C:3]([H:14])([H:15])[H:16])[N:6]([C:2]([H:11])([H:12])[H:13])[H:10])(\[N:5]([H:7])[H:8])[H:9],70.39734250000365
MR_263452_0,[N:1]([C:3]([N:2]([N:4]([H:10])[H:11])[H:9])=[O:6])([O:5][H:7])[H:8]>>[N:1](/[C:3](=[N:2]/[N:4]([H:9])[H:11])[O:6][H:10])([O:5][H:7])[H:8],55.08445999996383
MR_691176_0,[C@:1]1([C:6]([C:4]([H:16])([H:17])[H:18])=[O:9])([H:10])[C:3]([H:14])([H:15])[C@@:2]([N:7]([H:12])[H:13])([H:11])[C:5]1=[O:8]>>[C@@:1]1([C:5]([C:6]([C:4]([H:16])([H:17])[H:18])=[O:9])=[O:8])([H:10])[C@:2]([N:7]([H:12])[H:13])([H:11])[C:3]1([H:14])[H:15],67.32949500000899
MR_312308_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:11])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[C:6]([H:19])[H:20])[O:7][O:8][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:11])[H:15])([O:7][C:5]([C:4]([H:16])([H:17])[H:18])=[C:6]([H:19])[H:20])[O:8][H:9],59.344557500015895
MR_155340_0,[C:1](/[N:6]=[C:5](/[N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])/[C:5](=[N:3]/[H:8])[H:9])([H:10])([H:11])[H:12],43.133722499996026
MR_128438_0,[C:1]([C:2]([H:15])([H:16])[H:17])([N:4](/[C:5](=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])[O:8][H:9])[N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:5](/[N:4]=[N:6]/[H:11])([C:7]([C:3]([H:18])([H:19])[H:20])([H:10])[H:14])[O:8][H:9])([H:12])[H:13],68.54684500000303
MR_134701_0,[C:1](/[C:5]([N:3]([N:2](/[C:4]([N:6]([H:11])[H:12])=[N:7]/[H:13])[H:9])[H:10])=[N:8]/[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:5]1([N:6]([H:11])[H:12])[N:3]([H:10])[N:2]([H:9])/[C:4](=[N:7]/[H:13])[N:8]1[H:14])([H:15])([H:16])[H:17],73.04790249998177
MR_221297_1,[C:1]([C:3]([C:4](/[C:5](=[N:2]\[H:9])[H:11])([O:6][H:8])[H:10])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:3]([N:2](/[C:5](=[C:4](/[O:6][H:8])[H:10])[H:11])[H:9])=[O:7])([H:12])([H:13])[H:14],65.6860725000206
MR_124668_0,[C:1]([N:3]([C:2]([H:11])([H:12])[H:13])[N:5][O:6])([N:4]([H:7])[H:8])([H:9])[H:10]>>[C:1]([N:4]([H:7])[H:8])([O:6][N:5][N:3][C:2]([H:11])([H:12])[H:13])([H:9])[H:10],37.60733000003782
MR_451437_0,[C@:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:5](/[O:7][H:9])[H:11])([C:6](=[O:8])[H:12])[H:10]>>[C@:1]1([C:2]([H:13])([H:14])[H:15])([H:10])[C@@:4]([C:3]([H:16])([H:17])[H:18])([C:6](=[O:8])[H:12])[C@@:5]1([O:7][H:9])[H:11],70.11998749999051
MR_298569_0,[C:1]([C:3]([O:4][O:5][C:2]([H:12])([H:13])[H:14])=[O:8])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([O:4][C:3]([O:5][C:2]([H:12])([H:13])[H:14])=[O:8])([O:6][H:9])([O:7][H:10])[H:11],36.01097000000195
